US08278328B2
Description 63. trans-N-(4-tert-Butyldimethylsilyloxycyclohexyl)phthalimide. (D63)
tert-Butyldimethylsilyl chloride (60 g; 0.39 mol) was added in portions to a mixture of trans N-(4-hydroxycyclohexyl)phthalimide (D62, 95 g; 0.39 mol), imidazole (55 g; 0.78 mol), and DMF (200 mL) at 20-30° C. (internal, ice cooling). After stirring for 3 h more at 40° C. the mixture was partitioned between water/hexane. Drying and evaporation of the organic layer gave the title compound (92 g) crystallised from pentane.

reactant | tert-Butyldimethylsilyl chloride | 0.39 mol, 60 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | trans N-(4-hydroxycyclohexyl)phthalimide | 0.39 mol, 95 g | O[C@@H]1CC[C@H](CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H15NO3
reactant | imidazole | 0.78 mol, 55 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | trans-N-(4-tert-Butyldimethylsilyloxycyclohexyl)phthalimide | 92 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C20H29NO3Si
